US07332623B2
Synthesis of 2-(2-trimethylsilyl-1-ethynyl)iodobenzene (a2)
The title compound was synthesized as a yellow oil in 54% yield using 1,2-diiodobenzene and (trimethylsilyl)acetylene as the starting materials according to Method A of the above-described General Synthesis Procedures I.

reactant | 1,2-diiodobenzene | IC1=C(C=CC=C1)I | C6H4I2
reactant | (trimethylsilyl)acetylene | C[Si](C)(C)C#C | C5H10Si
product | 2-(2-trimethylsilyl-1-ethynyl)iodobenzene | 54% yield | C[Si](C#CC1=C(C=CC=C1)I)(C)C | C11H13ISi
